US07615568B2
A. 1-t-Butoxycarbonylazetidine-3-carboxylic acid
Using a procedure analogous to Example 1-C (K2CO3, acetone), azetidine-3-carboxylic acid gave the title compound as a solid (3.61 g, 91%).

reactant | K2CO3 | C(=O)([O-])[O-].[K+].[K+]
reactant | azetidine-3-carboxylic acid | N1CC(C1)C(=O)O | C4H7NO2
solvent | acetone | CC(=O)C | C3H6O
product | 1-t-Butoxycarbonylazetidine-3-carboxylic acid | 3.61 g, 91% | C(C)(C)(C)OC(=O)N1CC(C1)C(=O)O | C9H15NO4
